US06617336B1
A solution of 2-trifluoromethanesulfonyloxy-8-vinylquinoline in 37 ml of tert-butanol and 37 ml of water is added to a suspension, cooled to 0° C. with an ice bath, of AD-mix-α in 300 ml of tert-butanol and 300 ml of water. The reaction mixture is stirred at 0° C. for 16 h and then sodium bisulfite with 300 ml of water is added. The mixture is stirred for 1 h at ambient temperature and extraction is carried out with ethyl acetate (3×200 ml). The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue is purified by silica chromatographic column (eluent: cyclohexane/ethyl acetate 1/1) to provide 12.0 g of 2-trifluoromethanesulfonyloxy-8-(1,2-dihydroxyethyl)quinoline in the form of a yellow oil. (Yield: 80%)

reactant | 2-trifluoromethanesulfonyloxy-8-vinylquinoline | FC(S(=O)(=O)OC1=NC2=C(C=CC=C2C=C1)C=C)(F)F | C12H8F3NO3S
reactant | AD-mix-α | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | tert-butanol | 37 ml | C(C)(C)(C)O | C4H10O
reactant | tert-butanol | 300 ml | C(C)(C)(C)O | C4H10O
solvent | water | 37 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 2-trifluoromethanesulfonyloxy-8-(1,2-dihydroxyethyl)quinoline | 12.0 g, Yield: 80% | FC(S(=O)(=O)OC1=NC2=C(C=CC=C2C=C1)C(CO)O)(F)F | C12H10F3NO5S
